US04261651
Step B1: The production of 4-n-propylbenzoic acid
A solution of sodium hypobromite prepared by dissolving bromine (1.0 mole) in a solution of sodium hydroxide (3.5 mole) in water (700 ml) at 0° C. was added to a well stirred solution of 4-n-propylacetophenone (0.2 mole), prepared in step A1, in dioxan (500 ml). Throughout the addition and for 0.25 hours afterwards the temperature was maintained at 35°-45° C. The excess of sodium hypobromite wad destroyed by adding a solution of sodium metabisulphite. Water (3.5 L) was added and bromoform distilled from the reation mixture. On cooling, the solution was acidified with concentrated hydrochloric acid and the precipitated product filtered off and washed with water. The product was crystallised from ethanol/water to yield white crystals mpt 141.2° C.

reactant | sodium hypobromite | Br[O-].[Na+]
reactant | bromine | 1.0 mole | BrBr | Br2
reactant | sodium hydroxide | 3.5 mole | [OH-].[Na+]
reactant | 4-n-propylacetophenone | 0.2 mole | CCCC1=CC=C(C=C1)C(=O)C | C11H14O
solvent | water | 700 ml | O | H2O
solvent | dioxan | 500 ml | O1CCOCC1 | C4H8O2
product | 4-n-propylbenzoic acid | C(CC)C1=CC=C(C(=O)O)C=C1 | C10H12O2
